US04306097
cis-3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]cyclohexanol
A mixture of 22.0 g. (0.0539 mol.) of cis-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohexanol, 12.0 g. of sodium bicarbonate and 2.0 g. of 10% palladium on carbon was stirred under one atmosphere of hydrogen for 2 hours. The reaction mixture was filtered through diatomaceous earth with ethyl acetate and the filtrate evaporated to a solid. The solid was recrystallized from hexane to yield 13.2 g. (77%) of the title product, m.p. 109°-110° C.

reactant | cis-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohexanol | 0.0539 mol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@H]1C[C@H](CCC1)O | C28H40O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | cis-3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]cyclohexanol | 77% | CC(CCCCCC)(C)C1=CC(=C(C=C1)[C@H]1C[C@H](CCC1)O)O | C21H34O2
